US06329389B1
(2-Formyl-5-methoxyphenyl)oxyacetonitrile
The mixture of 2-hydroxy-4-methoxybenzaldehyde (9.50 g), potassium carbonate (17.3 g), bromoacetonitrile (11.2 g) and acetonitrile (100 ml) was stirred at room temperature for 12 hours. Water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate), and then recrystallized from ethyl acetate-hexane to obtain the entitled compound (10.7 g).

reactant | 2-hydroxy-4-methoxybenzaldehyde | 9.50 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | potassium carbonate | 17.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 11.2 g | BrCC#N | C2H2BrN
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | (2-Formyl-5-methoxyphenyl)oxyacetonitrile | 10.7 g | C(=O)C1=C(C=C(C=C1)OC)OCC#N | C10H9NO3
